US06537998B1
Step 2A 5-Ethoxycarbonyl-2-methyl-3-(2-oxo-3,3-dimethyl-butyl)pyrimid-4-one
To a suspension of 5-ethoxycarbonyl-2-methylpyrimid-4-one (2.7 g, 14.75 mmol.) in DME (20 ml), tetrabutylammonium fluoride (22 ml, 22.0 mmol.) was added. The solution was stirred at room temperature until solids dissolved, then 1-bromopinacolone (2.2 ml, 1.1 eq., 16.22 mmol) was added. The solution was stirred overnight and concentrated to a brown oil. The crude mixture was purified by silica gel column chromatography (hexane/ethyl acetate, 100/0 to 0/100). A less polar O-alkylated by-product was eluted first (1.8 g) and then the desired N-alkylated product (1.1 g); MS (281, M+H)+. NMR (CDCl3, δ): 8.57 (1H, s) , 5.06(1H, s), 4.35(2H, q), 2.42 (3H, s), 1.34 (3H, t), 1.30 (9H,s).

reactant | 5-ethoxycarbonyl-2-methylpyrimid-4-one | 14.75 mmol, 2.7 g | C(C)OC(=O)C=1C(NC(=NC1)C)=O | C8H10N2O3
reactant | tetrabutylammonium fluoride | 22.0 mmol, 22 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 1-bromopinacolone | 16.22 mmol, 2.2 ml, 1.1 eq. | BrCC(C(C)(C)C)=O | C6H11BrO
solvent | DME | 20 ml | COCCOC | C4H10O2
product | 5-Ethoxycarbonyl-2-methyl-3-(2-oxo-3,3-dimethyl-butyl)pyrimid-4-one | C(C)OC(=O)C=1C(N(C(=NC1)C)CC(C(C)(C)C)=O)=O | C14H20N2O4
